US06127548
2-Butyl-3-piperidinomethylimidazole
18.6 g of butylimidazole and 12.8 g of piperidine were introduced into 45 ml of water, and, with slight cooling, 30 g of concentrated hydrochloric acid was added. 15 g of formalin (36 percent formaldehyde in water) was added, and the mixture was stirred for 44 hours at room temperature. The mixture was rendered basic using 30 percent NaOH and extracted with ethyl acetate, and the organic phase was concentrated by evaporation to give 33.6 g of product as a yellow oil. The yield was quantitative. Other data concerning the product was:

reactant | butylimidazole | 18.6 g | C(CCC)C=1NC=CN1 | C7H12N2
reactant | piperidine | 12.8 g | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 30 g | Cl | ClH
reactant | formalin | 15 g | C=O | CH2O
reactant | NaOH | [OH-].[Na+]
solvent | water | 45 ml | O | H2O
product | 2-Butyl-3-piperidinomethylimidazole | 33.6 g | C(CCC)C1=NC=CN1CN1CCCCC1 | C13H23N3
